US08957093B2
4′-((2,3-Dimethyl-5-(((1R,2S)-2-phenylcyclopropyl)carbamoyl)-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid
The title compound was prepared following the same general protocol as described in Step 8-9, Example 1, using (1R,2S)-2-phenylcyclopropanamine hydrochloride and 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid. ESI-MS (m/z): 515 [M+H]+.

reactant | (1R,2S)-2-phenylcyclopropanamine hydrochloride | Cl.C1(=CC=CC=C1)[C@H]1[C@@H](C1)N
reactant | 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C29H29NO4
product | 4′-((2,3-Dimethyl-5-(((1R,2S)-2-phenylcyclopropyl)carbamoyl)-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid | CC=1N(C2=CC=C(C=C2C1C)C(N[C@H]1[C@@H](C1)C1=CC=CC=C1)=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C34H30N2O3
